US09353108B2
B) Methyl 4-cyclopropyl-2-ethoxybenzoate
Cyclopropylboronic acid (1.90 g), a 2 M aqueous sodium carbonate solution (22 mL), tris(dibenzylideneacetone)dipalladium(0) (944 mg), and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (907 mg) were added at room temperature to a toluene (80 mL) solution of methyl 2-ethoxy-4-iodobenzoate (4.51 g), and the mixture was stirred at 100° C. for 18 hours in an argon atmosphere. Water was added to the reaction mixture at room temperature, and the mixture was filtered through celite. Then, the filtrate was subjected to extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.25 g).

reactant | Cyclopropylboronic acid | 1.90 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 2 M, 22 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 907 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | methyl 2-ethoxy-4-iodobenzoate | 4.51 g | C(C)OC1=C(C(=O)OC)C=CC(=C1)I | C10H11IO3
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 944 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-cyclopropyl-2-ethoxybenzoate | 3.25 g | C1(CC1)C1=CC(=C(C(=O)OC)C=C1)OCC | C13H16O3
